US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and thiophene-3-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-(1-thiophen-3-yl-5-methoxy-isoquinolin-3-yl)-amine. LC-MS m/e 337(MH+).

reactant | (1-chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | (5-methyl-1H-pyrazol-3-yl)-(1-thiophen-3-yl-5-methoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC(=C2C1)OC)C1=CSC=C1 | C18H16N4OS
